US05698554
An ethylene glycol solution (25 ml) containing 2.48 g of 6-[4-(3-(2-methylsulfinylethyl)sulfonylaminopropyl)phenyl]pyridazin-3(2H)-one was stirred at 180° C. for 1 hour. The reaction mixture was poured into ice water, and precipitated crystal was collected by filtration, washed with water, dried and then recrystallized from methanol to obtain 1.60 g of 6-[4-(3-vinylsulfonylaminopropyl)phenyl]-pyridazin-3(2H)-one.

reactant | 6-[4-(3-(2-methylsulfinylethyl)sulfonylaminopropyl)phenyl]pyridazin-3(2H)-one | 2.48 g | CS(=O)CCS(=O)(=O)NCCCC1=CC=C(C=C1)C=1C=CC(NN1)=O | C16H21N3O4S2
solvent | ethylene glycol | 25 ml | C(CO)O | C2H6O2
product | 6-[4-(3-vinylsulfonylaminopropyl)phenyl]-pyridazin-3(2H)-one | 1.60 g | C(=C)S(=O)(=O)NCCCC1=CC=C(C=C1)C=1C=CC(NN1)=O | C15H17N3O3S
